US07750017B2
Step 1. Preparation of 2-(3-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-benzo[4,5]thieno[2,3-d]pyrimidin-7-yloxy}-2-hydroxy-propyl)-isoindole-1,3-dione
To a solution of 4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-ol (150 mg, 0.33 mmol) in EtOH (15 mL) was added (2,3-epoxypropyl)phthalimide (101.2 mg, 0.50 mmol, 1.5 equiv) and triethylamine (1.68 mg, 0.02 mmol, 0.05 equiv) under nitrogen. The reaction mixture was stirred at 80° C. for 15 h and then cooled to rt. The resulting mixture was concentrated in vacuo. The crude material (216 mg, 0.33 mmol) was directly used in the next step without further purification, LCMS RT=3.89 min, [M+H]+=655.1.

reactant | 4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-ol | 0.33 mmol, 150 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)O | C23H15ClFN3O2S
reactant | (2,3-epoxypropyl)phthalimide | 0.50 mmol, 101.2 mg, 1.5 equiv | O1C(CC2=C3C(C(=O)NC3=O)=CC=C2)C1 | C11H9NO3
reactant | triethylamine | 0.02 mmol, 1.68 mg, 0.05 equiv | C(C)N(CC)CC | C6H15N
reactant | EtOH | 15 mL | CCO | C2H6O
product | 2-(3-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-benzo[4,5]thieno[2,3-d]pyrimidin-7-yloxy}-2-hydroxy-propyl)-isoindole-1,3-dione | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)OCC(CN1C(C2=CC=CC=C2C1=O)=O)O | C34H24ClFN4O5S
